US05021436
A solution of 2-mercaptomethyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine (5 g), acrylonitrile (0.66 g) and 1,1,3,3-tetramethylguanidine (0.1 g) in EtOH (60 ml) is stirred at room temperature for 18 hours and then evaporated to dryness. After the usual work-up, the residue is recrystallized from Et2O to give 5.2 g of 2-[(2-cyanoethyl)thio]methyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine m.p. 102°-104° C.

reactant | 2-mercaptomethyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine | 5 g | SCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C19H22N2O6S
reactant | acrylonitrile | 0.66 g | C(C=C)#N | C3H3N
solvent | EtOH | 60 ml | CCO | C2H6O
catalyst | 1,1,3,3-tetramethylguanidine | 0.1 g | CN(C(=N)N(C)C)C | C5H13N3
product | 2-[(2-cyanoethyl)thio]methyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine | 5.2 g | C(#N)CCSCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C22H25N3O6S
